US05260293
Thionyl chloride (0.35 ml. 4.8 mmol) was added to a rapidly stirred solution of 3-(5-pyrimidinyl)-1-azabicyclo[2.2.2] octan-3-ol (0.5 g, 2.4 mmol) in dichloromethane (15 ml), at 0° C. The solution was warmed to room temperature and stirred for 1 h before adding a second portion of thionyl chloride (0.2 ml) and refluxing for 0.25 h. The mixture was cooled to 10° C., water (10 ml) added and basified to pH >10 with potassium carbonate. Extraction into dichloromethane (3×50 ml). drying (Na2SO4) and evaporation of solvents under reduced pressure gave 3-(5-pyrimidinyl)-1-azabicyclo[2.2.2]oct-2-ene (0.16 g) as a yellow oil which crystallised on standing at 0° C., m/e 188 (M+H)+ ; δ (360 MHz,D2O) 1.86-1.98 (2H, m,CH2); 2.15-2.26(2H,m,CH2): 3.18-3.30 (2H,m,0.5×CH2 and CH); 3.62-3.72(3H,m,CH2 and 0.5×CH2) 7.23(1H,s,vinyl-H): 9.00(2H,s,pyrimidine-H); 9.15(1H,s,pyrimidine H). A solution of 3-(5-pyrmidinyl)-1-azabicyclo[2.2.2]oct-2-ene (0.31 g 1.66 mmol) in ethanol (40 ml) was hydrogenated over 10% pd/C (0.12 g) in a Parr apparatus. After 4 h the suspension was filtered through hyflo, the solvent removed under vacuum and, the residue chromatographed on alumina using dichloromethane/methanol (95:5) as eluant, to give 3-(5-pyrimidinyl)-1-azabicyclo[2.2.2]octane (0.17 g) as a yellow oil. The hydrochloride salt was made. m.p. 267°-270° C. (dec.); (Found C,56.00; H,6.88, N,17.74. C11H15N3.HCl.0.75H2O requires C,55.69; H,6.58; N,17.71%) m/e 189 (M+ for free base); δ (360 MHz,D2O) 1.89-1.94(2H,m,CH2); 2.13-2.24 (2H,m,CH2); 2.38-2.46 (1H, m, CH-bridgehead); 3.34-3.90(7H,m,3×CH2 --N and CH); 8.85(2H,s,pyrimidine-H); 9.09 (1H,s,pyrimidine-H).

reactant | Thionyl chloride | 4.8 mmol, 0.35 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(5-pyrimidinyl)-1-azabicyclo[2.2.2] octan-3-ol | 2.4 mmol, 0.5 g | N1=CN=CC(=C1)C1(CN2CCC1CC2)O | C11H15N3O
reactant | thionyl chloride | 0.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 10 ml | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-(5-pyrimidinyl)-1-azabicyclo[2.2.2]oct-2-ene | 0.16 g | N1=CN=CC(=C1)C1=CN2CCC1CC2 | C11H13N3
